//=============================================================================
//==COMPONENTS
//=============================================================================

//============================================================================
// Diffusion Resistor (or Semiconductor Resistor)
// Pxx N1 N2 [NS] MNAME [L=VAL] [W=VAL] [NB=VAL]
// Pxx N1 N2 NS MNAME [R=VAL] [L=VAL] [CL=VAL] [W=VAL] [CW=VAL] [AREA=VAL] [STATISTICAL=0|1]
//============================================================================

//============================================================================
// Noise
// ----------------------------------------------------------------------------
// NOISE THN FLN ALPHA [FC N] [FMIN] [FMAX] [NBF] [value={expr}]
//
// Noise Table Function
// NOISE TABLE [[INTERP=]DEC|OCT|LIN|LOG|HARM_DEC|HARM_OCT] [DB|MA]
//    + (f1 val1) (f2 val2) ...
//============================================================================

//============================================================================
// Switch
// ----------------------------------------------------------------------------
// Sxx NC N1 N2 [MNAME] [RON [CREC]]
//============================================================================
s23 c n2 n6 2000 0.02e-12
s7 ck3 5 7 styp